US06908935B2
3-Acetylpyridine (2.4 g, 20 mmol, Aldrich) was dissolved in 2M ammonia solution in methyl alcohol (50 mL, 100 mmol, Aldrich) and acetic acid (15 mL, J. T. Baker) was slowly added at 0 C. After stirring for 3 h at room temperature, the sodium cyanoborohydride (5.0 g, 80 mmol, Aldrich) was added to the solution at 0 C. The mixture was stiffed under nitrogen at room temperature for overnight then the reaction was cooled at ice bath and quenched with aqueous 5 N sodium hydroxide (30 mL, 150 mmol, J. T. Baker). The methyl alcohol was removed from the mixture via vacuo. The residue was extracted by diethyl ether (30 mL×4). The combined organic phases were dried over anhydrous magnesium sulfate and concentrated via vacuo to give crude 1-pyridin-3-yl-ethylamine as light yellow oil in 44% yield (1.07 g, 8.8 mmol).

reactant | 3-Acetylpyridine | 20 mmol, 2.4 g | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | methyl alcohol | 100 mmol, 50 mL | CO | CH4O
reactant | sodium cyanoborohydride | 80 mmol, 5.0 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 150 mmol, 5 N, 30 mL | [OH-].[Na+]
solvent | ammonia | 2M | N | H3N
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 1-pyridin-3-yl-ethylamine | 44% yield | N1=CC(=CC=C1)C(C)N | C7H10N2
